US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-5-(2-hydroxyethyl)-7-isobutyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by the reaction of 2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and 2-bromoethanol using potassium carbonate as a base. Mass: 496.17 (M+H).

reactant | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(NC(C2=C1C=1N(C=CN1)C)=O)=O)CC(C)C | C22H22ClN7O2
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-5-(2-hydroxyethyl)-7-isobutyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=CN1)C)=O)CCO)=O)CC(C)C | C24H26ClN7O3
